US07199120B2
In a similar manner as described in Example 17 from N-cyclopentyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine (166 mg, 0.401 mmol), n-butyllithium (753 μL, 1.6 M in hexanes, 1.20 mmol) and carbon tetrachloride (155 μL, 1.60 mmol) was formed 4-{7-chloro-2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-N-cyclopentyl-2-pyrimidinamine (140 mg, 78%). Rf 0.21 (1:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.36 (d, 1H), 8.19 (d, 1H), 8.07 (d, 1H), 7.36 (m, 1H), 7.13 (d, 1H), 6.90 (d, 1H), 6.81 (s, 1H), 6.52 (d, 1H), 5.25–5.21 (br, 2H), 4.35 (m, 1H), 3.89 (m, 1H), 2.18–2.04 (m, 2H), 1.80–1.50 (m, 6H), 1.22 (d, 6H).

reactant | N-cyclopentyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine | 0.401 mmol, 166 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=NC=C2)NC(C)C | C24H27N7
reactant | n-butyllithium | 1.20 mmol, 1.6 M, 753 μL | C(CCC)[Li]
reactant | carbon tetrachloride | 1.60 mmol, 155 μL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-{7-chloro-2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-N-cyclopentyl-2-pyrimidinamine | 140 mg, 78% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=NC=C2)NC(C)C | C24H26ClN7
